US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-{5-[1-(2-dimethylamino-ethyl)-1H-tetrazol-5-ylsulfanyl]-thiazol-2-yl}-urea (125 mg, 25%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 1-(2-dimethylamino-ethyl)-1H-tetrazole-5-thiol (346 mg, 2 mmol) following the general procedure Y

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 1-(2-dimethylamino-ethyl)-1H-tetrazole-5-thiol | 2 mmol, 346 mg | CN(CCN1N=NN=C1S)C | C5H11N5S
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-{5-[1-(2-dimethylamino-ethyl)-1H-tetrazol-5-ylsulfanyl]-thiazol-2-yl}-urea | 125 mg, 25% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)SC1=NN=NN1CCN(C)C | C22H28N8O2S2
